Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Endometrial hemorrhage  

 
Major Surgical or Invasive Procedure:
IVC filter placement
Exploratory laparotomy
Total abdominal hysterectomy
Bilateral salpingo-oophorectomy
Cystoscopy 

 
History of Present Illness:
Ms. ___ is a ___ with PMH of htn, HLP, "facial nerve pain", who 
presented to the ED after having heavy vaginal bleeding 
overnight. The patient presented to the ___ clinic on ___ for 
an endometrial biopsy following an abnormal pap. Following the 
biopsy, she had several days of vaginal spotting, and on ___ 
presented to the ED with heavier bleeding. At that time, the 
patient was stable with a hct of 32. An ultrasound showed a 
large blood clot expanding the endometrial cavity measuring 
approximately 6.7 x 3.0 x 6.1 cm. The patient was discharged 
home with provera. She was then seen in ___ clinic on  ___ and 
was scheduled for surgery ___ and uptitrated to 20mg provera 
for continued vaginal bleeding.

At 2am on ___, the patient woke up with a pad soaked through 
her underwear and many clots passed, and was feeling very 
lightheaded, dizzy and unsteady with walking. She presented to 
the ED.

In the ED, VS: 97.1 HR: 85 BP: 152/80 Resp: 16 O(2)Sat: 99

Notable labs: 
WBC 11.1 Hgb 10.4 (from 11.7 on ___ Hct 31.3 Plt 220.

The patient was admitted to the gyn service for further 
management of endometrial bleeding.

The patient underwent CT torso to further image the presumed 
endometrial cancer and assess for mets, which incidentally 
showed segmental pulmonary emboli bilaterally, and no evidence 
of metastatic disease.

The patient was started on a heparin gtt, after which she 
developed more vaginal bleeding, and had a hgb drop from 10.4 -> 
8.5, for which she received 1u pRBCs and vaginal packing. The 
heparin was stopped, and the patient was transferred to the 
FICU.

On arrival to the FICU, the patient was initially doing well 
with stable VS. She received 3L IVF. 
While talking with her family, she complained of feeling sweaty, 
and then became unresponsive with eye and head jerking and 
became apneic. Increased vaginal bleeding was noted. A code blue 
was called. The head of the bed was lowered and her tongue was 
noted to be blocking her airway. After moving her tongue, the 
patient again began to spontaneouly breathe, and regained 
consciousness. Her HR and blood pressure remained stable. The 
code was cancelled, and the patient quickly was talking with her 
family again. 
She reported that prior to this event she had been feeling 
sweaty, and that her chest was being "crushed". An EKG showed no 
ST changes. A repeat h/h showed hgb had dropped to 7.0. The 
patient received 2 additional units of pRBCs. Vital signs 
remained stable.   

 
Past Medical History:
- hypertension
- hyperlipidemia
- osteoporosis
- history of postive PPD
- facial neuropathy
- post-partum tubal ligation

 
Social History:
___
Family History:
- No known family history of breast, uterine, ovarian,
cervical or colon cancer

 
Physical Exam:
On day of admission: 
Vitals: T: 97.8  BP: 104/69 P: 106 R: 23 O2: 99%RA  
GENERAL: resting in bed, appears uncomfortable, but in NAD, 
somewhat diaphoretic and cool
HEENT: NCAT, EOMI, PEERL
NECK:  no JVD, no LAD 
LUNGS: CTAB
CV: rrr, no murmurs
ABD: Bowel sounds present, tender to palpation
GU: Foley in place. Vaginal packing in place with bright red 
blood noted on pad. 
EXT: somewhat cool, DP pulses present

On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 01:23PM BLOOD WBC-11.5* RBC-3.88* Hgb-11.7 Hct-35.4 
MCV-91 MCH-30.2 MCHC-33.1 RDW-12.6 RDWSD-41.6 Plt ___
___ 04:20AM BLOOD Neuts-77.1* Lymphs-13.7* Monos-6.4 
Eos-1.0 Baso-0.3 Im ___ AbsNeut-8.59* AbsLymp-1.53 
AbsMono-0.71 AbsEos-0.11 AbsBaso-0.03
___ 04:20AM BLOOD ___ PTT-25.1 ___
___ 09:08PM BLOOD ___
___ 04:20AM BLOOD Glucose-124* UreaN-15 Creat-0.8 Na-138 
K-4.0 Cl-99 HCO3-27 AnGap-16
___ 09:08PM BLOOD LD(LDH)-188 TotBili-0.1
___ 09:08PM BLOOD cTropnT-<0.01
___ 09:08PM BLOOD Calcium-7.6* Phos-2.7 Mg-1.9
___ 09:30PM BLOOD Type-ART pO2-115* pCO2-40 pH-7.39 
calTCO2-25 Base XS-0 Intubat-NOT INTUBA

___ 07:55AM BLOOD WBC-7.9 RBC-2.97* Hgb-9.2* Hct-27.1* 
MCV-91 MCH-31.0 MCHC-33.9 RDW-13.3 RDWSD-43.5 Plt ___
___ 07:55AM BLOOD WBC-7.9 RBC-2.97* Hgb-9.2* Hct-27.1* 
MCV-91 MCH-31.0 MCHC-33.9 RDW-13.3 RDWSD-43.5 Plt ___
___ 07:55AM BLOOD Glucose-110* UreaN-12 Creat-0.7 Na-137 
K-4.1 Cl-100 HCO3-27 AnGap-14
___ 07:55AM BLOOD Calcium-9.1 Phos-4.5 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is a ___ admitted for vaginal bleeding due to emdometrial 
cancer complicated by uterine hemorrhage on initiation of 
heparin gtt who was admitted to ___ for HD instability and 
incidentally found to have PEs. Patient admitted with plan for 
urgent ex-lap, TAH, BSO, and cystoscopy for endometrial 
adenocarcinoma and uterine hemorrhage. 

FICU Course, Hospital Day 1 - ___ Day 2

#Endometrial hemorrhage: Placed on heparin gtt for pulmonary 
embolisms found during this admission as below. Developed 
hemorrhage secondary to heparin gtt. Drip was discontinued in 
the setting of active hemorrhage. The patient required 3L IVF 
and 4U pRBC's to maintain pressures and H/H. The patient had an 
IVC filter placed in the setting of pulmonary emboli, and she 
was then taken urgently for hysterectomy to control her 
bleeding. Pt received no additional U pRBC's and her H/H and 
blood pressure were stable post-operatively. She was transferred 
back to the gyn-onc service.

#Pulmonary Embolisms: Incidental finding of pulmonary emboli 
involving the right middle and lower lobe segmental arteries 
seen on CT while being scanned for endometrial bleeding.  She 
was started on heparin gtt, but in the setting of active uterine 
bleeding she underwent at IVC filter placement prior to planned 
hysterectomy as above.

#Altered mental status - Pt had brief episode of 
unresponsiveness with abnormal eye and lip movements. Likely 
vasovagal given that feeling sweaty before episdoe, and with 
known volume loss. Pt also reports having experienced crushing 
pressure on her chest prior to episode. Abnormal movements not 
rhythmic, likely represent myoclonic jerks as opposed to 
seizure. Pt noted to have home prescription for carbamazpine, 
but clarified to be for facial nerve pain. No history of 
seizure. EKG wnl's, troponins negative. This was felt to be 
likely ___ vasovagal response.

Post-operative course, Hospital Day 2 - ___ Day 6

On hospital day 2 Ms. ___ underwent ex-lap, total abdominal 
hysterectomy, bilateral salpingo-oophorectomy, and cystoscopy 
for endometrial adenocarcinoma and uterine hemorrhage. Please 
see the operative report for full details. She tolerated the 
procedue well and was transferred to the floor.

# Post-op care: Immediately postoperatively, her pain was 
controlled with IV dilaudid/acetaminophen. Her diet was advanced 
without difficulty and she was transitioned to PO oxycodone, 
acetaminophen, and ibuprofen. On post-operative day #1, her 
urine output was adequate so her Foley catheter was removed and 
she voided spontaneously.

# Weakness: She complained of weakness and dizziness with 
standing and physical therapy was consulted. While inpatient she 
worked with physical therapy and was able to ambulate with the 
use of a roller walker. She was also found to be symptomatically 
orthostatic. Given her low/normotensive blood pressures 
throughout admission her femlodipine was discontinued and her 
dizziness improved.

# Pulmonary Embolisms: She was maitainted on Lovenox twice daily 
and was followed by Hematology while inpatient. She has 
scheduled follow up for further management of her 
anticoagulation and IVC filter.

By post-operative day #4, she was tolerating a regular diet, 
voiding spontaneously, ambulating with a roller walker, and pain 
was controlled with oral medications. She was then discharged 
home in stable condition with setup for home physical therapy, 
home nursing, and outpatient follow-up scheduled.

Of note, it was discovered 2 days after dicharge that patient 
was not sent home with lovenox prescription for anticoagulation 
therapy for bilateral pulmonary emboli. Patient was notified 
immediately and a script was sent to her pharmacy. Home ___ was 
able to provide teaching for first injection. An incident report 
was filed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
3. Loratadine 10 mg PO DAILY 
4. Atenolol 100 mg PO DAILY 
5. CarBAMazepine 200 mg PO BID 
6. Vitamin D 1000 UNIT PO DAILY 
7. Felodipine 10 mg PO DAILY 
8. Hydrocortisone Cream 2.5% 1 Appl TP BID 
9. Mapap (acetaminophen) (acetaminophen) 500 mg oral BID:PRN 
pain 
10. MedroxyPROGESTERone Acetate 10 mg PO DAILY 
11. Ranitidine 300 mg PO DAILY 
12. Simvastatin 40 mg PO QPM 
13. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600mg-400 
intl u  oral BID 

 
Discharge Medications:
1. Outpatient Physical Therapy
Rolling walker

Diagnosis: Unsteady gait
Prognosis: Good
Length: 13 months 
2. Commode
Commode 

Diagnosis: Unsteady gait
Prognosis: Good
Length: 13 months 
3. Atenolol 100 mg PO DAILY 
4. CarBAMazepine 200 mg PO BID 
5. Ranitidine 300 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Acetaminophen 1000 mg PO Q6H pain, fever 
Do not take more than 4,000 mg in 24 hrs. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth Every 6 hours as 
needed Disp #*50 Tablet Refills:*0
8. Docusate Sodium 100 mg PO BID 
Take while you are taking pain medication to prevent 
constipation. 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
a day as needed Disp #*60 Capsule Refills:*0
9. Ibuprofen 600 mg PO Q6H pain 
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 6 hours as 
needed Disp #*50 Tablet Refills:*0
10. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
Do not drink alcohol or drive while taking this medication. 
RX *oxycodone [Oxecta] 5 mg 1 tablet(s) by mouth Every 3 hours 
as needed Disp #*50 Tablet Refills:*0
11. Vitamin D 1000 UNIT PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
14. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600mg-400 
intl u  oral BID 
15. Hydrocortisone Cream 2.5% 1 Appl TP BID 
16. Loratadine 10 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Endometrial cancer

Final pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Abdominal instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Your staples will be removed at your follow-up visit.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___